US04740513
Preparation of 6-(4-[2,4-difluorophenyl)-2-methyl-imidazol-1-yl)-8-methyl-2-(1H)-quinolone, 0.5H2O
This compound, m.p. 262°-5°, was prepared similarly to Example 11 using 6-(4-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone, 2,4-difluorophenyl zinc chloride and tetrakis(triphenylphosphine)palladium (O) as the starting materials:

reactant | 6-(4-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | IC=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C14H12IN3O
reactant | 2,4-difluorophenyl zinc chloride | [Cl-].FC1=C(C=CC(=C1)F)[Zn+]
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-[2,4-difluorophenyl)-2-methyl-imidazol-1-yl)-8-methyl-2-(1H)-quinolone | FC1=C(C=CC(=C1)F)C=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C20H15F2N3O
